US08193164B2
Intermediate VA 3-{(1S,2R,3S,4R)-4-[2-Chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-imidazolidine-2,4-dione
({(1S,2R,3S,4R)-4-[2-Chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentylcarbamoyl}-methyl)-carbamic acid benzyl ester (Intermediate UA) is dissolved in EtOH and purged with argon and Pd/C is added. The reaction mixture is placed under a positive pressure of H2(g) (0.35 Barr) at RT over night. The reaction mixture is filtered through celite and reduced in vacuo. Intermediate VA is obtained after purification by reverse phase column chromatography (Isolute™ C18, 0-100% acetonitrile in water—0.1% TFA).

reactant | ({(1S,2R,3S,4R)-4-[2-Chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentylcarbamoyl}-methyl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NCC(N[C@@H]1[C@H]([C@H]([C@@H](C1)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)Cl)O)O)=O)=O | C34H34ClN7O5
solvent | EtOH | CCO | C2H6O
product | 3-{(1S,2R,3S,4R)-4-[2-Chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-imidazolidine-2,4-dione | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)N1C(NCC1=O)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H26ClN7O4
